US06255494B1
Preparation of (RS) 1-[3-[[benzylaminoamino]carbonyl]butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole
To a stirring solution of (RS) 1-[3-carboxybutyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole (0.500 g, 1.4 mmol) in N,N-dimethylformamide (40 ml) were added sequentially benzylamine (165 mg, 1.1 eq), 1-hydroxybenzotriazole (208 mg, 1.1 eq), and dicyclohexylcarbodiimide (317 mg, 1.1 eq). The resulting mixture was then stirred under a nitrogen atmosphere at room temperature for 64 hours. The reaction mixture was then filtered and the resulting filtrate was concentrated under reduced pressure. This residue was taken into ethyl acetate (200 ml) and washed once with water (200 ml), dried over potassium carbonate. The solvents were removed in vacuo to yield 0.714 grams of the title product as a white foam.

reactant | (RS) 1-[3-carboxybutyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 1.4 mmol, 0.500 g | C(=O)(O)C(CCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl)C | C20H21ClN2O3
reactant | benzylamine | 165 mg, 1.1 eq | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-hydroxybenzotriazole | 208 mg, 1.1 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 317 mg, 1.1 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (RS) 1-[3-[[benzylaminoamino]carbonyl]butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 0.714 grams | C(C1=CC=CC=C1)NNC(=O)C(CCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl)C | C27H29ClN4O2
